US04548944
2-Guanidino-4-(4-nitro-phenyl)-oxazole hydrochloride
A solution of 90 gm of 4-nitro-phenacyl acetate and 33.9 gm of 1-cyano-guanidine in 200 ml of dioxane and 20 ml of 5N hydrochloric acid was stirred for 2 days at room temperature. A first crop of the product was filtered off; the solution, after the addition of another 40 ml of 5N hydrochloric acid, was stirred for 3 days and furnished a second crop of the product. The total yield of the title compound was 46 gm, m.p. >285° C.

reactant | 4-nitro-phenacyl acetate | 90 gm | C(C)(=O)OCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9NO5
reactant | 1-cyano-guanidine | 33.9 gm | C(#N)NC(=N)N | C2H4N4
reactant | hydrochloric acid | 5N, 20 ml | Cl | ClH
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 2-Guanidino-4-(4-nitro-phenyl)-oxazole hydrochloride | Cl.N(C(=N)N)C=1OC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C10H9N5O3.ClH/c11-9(12)14-10-13-8(5-18-10)6-1-3-7(4-2-6)15(16)17;/h1-5H,(H4,11,12,13,14);1H
